Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
amoxicillin
 
Attending: ___.
 
Chief Complaint:
Chest tightness
 
Major Surgical or Invasive Procedure:
Left Cardiac Catheterization ___
 
History of Present Illness:
___ year old woman with no significant PMH presenting with 
exertional chest pain and shortness of breath. The patient notes 
that for the past ___ weeks she has been more breathless than 
normal while walking.  
 Around 4PM 2 days prior to admission she had chest tightness 
which resolved at 7PM. Day prior to admission when walking to 
yoga class she had breathlessness and chest tightness, described 
as a pressure. Not radiating to back, neck or arms. She did yoga 
with no worsening of her symptoms. However they did not subside. 
She went to her PCP to get care who directed her to the ED. 
Patient was given ASA prior to arrival. Denies cough, 
diaphoresis, nausea, vomiting, HA, leg swelling/pain. reports 
palpitations for the past several months.  
 In the ED initial vitals were: 98.0 59 179/99 20 99% RA. 
Patient was chest pain free and denies SOB. Exam notable for 
Lungs clear, RRR with no m/r/g, no leg swelling.  
 EKG: NSR @ 57, NA/NI, PVC, no ischemia  
 Labs/studies notable for:  
 Normal Chem 7 and CBC  
 Trop <0.01 -> 0.06  
 UA Negative  
 Patient was given:  
 ___ 20:56 PO Lorazepam 1 mg  
 ___ 20:56 PO Acetaminophen 650 mg  
 ___ 23:10 IV Heparin 4000 UNIT  
 ___ 23:11 IV Heparin ___ Started 800  
 ___ 00:50 PO/NG Atorvastatin 80 mg  
 Patient admitted for elevated troponin/ACS.  
 Vitals on transfer: 98.0 59 179/99 20 99% RA  
 On the floor she is chest pain free. Denies SOB. Feels well. 
With no major concerns.  

 
Past Medical History:
Insomnia  
Ankle surgery  
 
Social History:
___
Family History:
Father died of MI in his ___, 3x brothers with CAD/MI, mother 
died of PE in her ___. No diabetes. Nephew with melanoma.  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VS: 97.6 133/86 67 16 97%RA 70.6kg  
 GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

 NECK: Supple non elevated JVP  
 CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills, lifts.  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: no edema  
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. warm 
well perfused  

DISCHARGE PHYSICAL EXAM:
=========================
Vitals: 98.2 106/62-145/72  ___  18  98% on RA
Tele: Sinus rhythm
Today's weight:70.8
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple non elevated JVP  
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills, lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: no edema  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. warm 
well perfused  
 
Pertinent Results:
ADMISSION LABS:
================
___ 01:14PM BLOOD WBC-7.2 RBC-4.41 Hgb-14.1 Hct-42.1 MCV-96 
MCH-32.0 MCHC-33.5 RDW-12.5 RDWSD-43.8 Plt ___
___ 07:05AM BLOOD ___ PTT-71.1* ___
___ 01:14PM BLOOD Glucose-95 UreaN-10 Creat-0.7 Na-140 
K-4.7 Cl-104 HCO3-27 AnGap-14
___ 01:14PM BLOOD cTropnT-<0.01
___ 07:05AM BLOOD Calcium-9.2 Phos-3.8 Mg-2.0

DISCHARGE LABS:
================
___ 12:05PM BLOOD Hgb-13.5# Hct-40.4#
___ 04:27AM BLOOD WBC-9.2 RBC-2.77*# Hgb-8.9*# Hct-26.9*# 
MCV-97 MCH-32.1* MCHC-33.1 RDW-13.6 RDWSD-48.6* Plt ___
___ 04:27AM BLOOD ___ PTT-28.1 ___
___ 04:27AM BLOOD Glucose-93 UreaN-8 Creat-0.6 Na-137 K-3.7 
Cl-104 HCO3-27 AnGap-10
___ 04:27AM BLOOD CK-MB-2 cTropnT-<0.01
___ 04:27AM BLOOD Calcium-8.2* Phos-2.3* Mg-2.0

PERTINENT FINDINGS:
=====================
Labs:
------
___ 01:14PM BLOOD cTropnT-<0.01
___ 07:45PM BLOOD cTropnT-0.06*
___ 02:15AM BLOOD cTropnT-0.08*
___ 07:05AM BLOOD CK-MB-7 cTropnT-0.08*
___ 03:15PM BLOOD CK-MB-4 cTropnT-0.06*
___ 06:50AM BLOOD cTropnT-0.05*
___ 10:00PM BLOOD CK-MB-6 cTropnT-0.09*
___ 04:27AM BLOOD CK-MB-2 cTropnT-<0.01

Imaging/Studies:
-----------------
CXR ___: 
The lungs are relatively hyperinflated. No focal consolidation 
is seen. No pleural effusion or pneumothorax is seen. The 
cardiac silhouette is top-normal. Aortic knob calcification is 
seen. Mediastinal contours unremarkable. No pulmonary edema is 
seen.  

IMPRESSION: No acute cardiopulmonary process.  

Cardiac Cath ___:
Coronary Anatomy - Dominance: Right
* Left Main Coronary Artery
  The LMCA is normal.
* Left Anterior Descending
 The LAD has a 70% stenosis in the proximal segment, at an 
angulated  segment and also involving origin
of large branching D1. 40% stenosis in the mid segment.
* Circumflex
 The Circumflex has a 60% stenosis in the ___ segment. .
 The ___ Marginal is a branching vessel, diffusely small in 
caliber, but with a 95% stenosis in the larger lower pole 
branch.
* Right Coronary Artery
 The RCA has mild luminal irregularities

Intra-procedural Complications: None
Impressions:
2 vessel CAD.
Successful PTCA/stent of LCX/OM1 using combination of bare metal 
and drug eluting stents.

Recommendations
ASA 81mg QD indefinitely. Plavix 75mg QD for minimum 12 months.
Consider PCI of LAD if has ongoing angina symptoms or a markedly 
positive stress test showing cardiac ischemia

 
Brief Hospital Course:
Mrs. ___ is a ___ year old woman with no significant PMH who 
presents with exertional chest tightness and shortness of breath 
found to have positive troponin and subtle EKG changes 
concerning for NSTEMI. 

#NSTEMI: Patient was placed on heparin drip and started on beta 
blocker, Troponin peaked at 0.08. Patient underwent Left heart 
cardiac catheterization on ___ which revealed 99% LCx stenosis 
and 60% stenosis of the mid LAD. 2 stents, 1 bare metal and 1 
DES were placed in the LCx with good restoration of flow. The 
mid LAD stenosis was unable to be assessed if contributing to 
symptoms due to tortuous anatomy. She was started on aspirin and 
Plavix, metoprolol succinate 25mg daily and atorvastatin 80mg 
daily. TTE showed an EF of 64%, mildly dilated L atrium with 
otherwise normal wall thickness and motion. The patient was 
watched overnight following the catheterization, then discharged 
with plan for a nuclear stress test as an outpatient to assess 
significance of LAD stenosis.

#Insomnia: Patient reported having difficulty sleeping at times, 
received lorazepam as needed. Was discharged on her home 
medications on zolpidem and lorazepam.

TRANSITIONAL ISSUES:
======================
[ ] Patient started on aspirin and Plavix, should remain asa 
81mg indefinitely and Plavix for one year. Patient also started 
on metoprolol succinate 25mg daily. 
[ ] Patient should have a nuclear stress test ___ weeks after 
discharge to assess significance of mid LAD stenosis 
[ ] Patient should be scheduled for outpatient TTE
[ ] Would benefit from referral to cardiac rehab
[ ] Full code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5 mg PO QHS:PRN insomnia 
2. Vagifem (estradiol) unknown  vaginal unknown 
3. Zolpidem Tartrate 5 mg PO QHS prn 

 
Discharge Medications:
1. LORazepam 0.5 mg PO QHS:PRN insomnia 
2. Vagifem (estradiol) 10 mcg VAGINAL 1X/WEEK (___) 
3. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
4. Atorvastatin 80 mg PO QPM 
RX *atorvastatin [Lipitor] 80 mg 1 tablet(s) by mouth at bedtime 
Disp #*30 Tablet Refills:*0
5. Zolpidem Tartrate 5 mg PO QHS prn 
6. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
7. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
=========
- NSTMEI

SECONDARY
==========
- Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for 
chest tightness that was determined to be a heart attack.

WHAT HAPPENED DURING YOUR HOSPITAL STAY?
=========================================
- EKGs were taken and showed subtle changes concerning for 
myocardial infarction (MI), meaning a heart attack. Blood tests 
showed an increased cardiac enzyme level called "troponin" 
further increasing concern for a heart attack. 
- You were started new medications to help protect your heart 
including aspirin, plavix (clopidogrel), lipitor (atorvastatin) 
and metoprolol. 
- You underwent a cardiac catheterization on ___ which showed 
stenosis or narrowing in the left circumflex (LCx) artery as 
well as the left anterior descending (LAD) artery. 1 bare metal 
stent and one drug eluting stent was placed in LCx, no stents in 
LAD. You were started on Plavix, a blood thinner.
- You were watched overnight and discharged once deemed stable.

WHAT SHOULD YOU DO FOLLOWING DISCHARGE?
========================================
- You should take all of your heart medications as prescribed.
 -- You are now on aspirin. You need to take aspirin everyday 
ongoing. If you stop taking aspirin, you risk the stent clotting 
and death. Do not stop taking aspirin unless you are told by 
your cardiologist. No other doctor can tell you to stop taking 
this medication. 
 -- You are now on Plavix (also known as clopidogrel). This 
medication helps keep your stent open and you will need to take 
every day for one year. Do not stop taking plavix unless you are 
told by your cardiologist. No other doctor can tell you to stop 
taking this medication. 
- You will be scheduled for a nuclear stress test next week, to 
assess if the LAD lesion has been contributing to your symptoms. 

- You should follow up with your PCP and establish care with a 
cardiologist, ___ forward.

It was a pleasure taking care of you during your hospital stay. 
If you have any questions about the care you received, please do 
not hesitate to ask.

Sincerely,
Your Inpatient ___ Cardiology Team

 
Followup Instructions:
___